US06911463B2
{2-[7-(2-Cyano-vinyl)-1H-indol-3-yl]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester is prepared from [1,1-dimethyl-2-(7-trifluoromethanesulfonylmethyl-1H-indol-3-yl)-ethyl]-carbamic acid tert-butyl ester and acrylonitrile as described for the preparation of Amine 23 (85%). FDMS m/e=339.2 (M++1).

reactant | [1,1-dimethyl-2-(7-trifluoromethanesulfonylmethyl-1H-indol-3-yl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)CS(=O)(=O)C(F)(F)F)(C)C)=O | C19H25F3N2O4S
reactant | acrylonitrile | C(C=C)#N | C3H3N
product | {2-[7-(2-Cyano-vinyl)-1H-indol-3-yl]-1,1-dimethyl-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CC1=CNC2=C(C=CC=C12)C=CC#N)(C)C)=O | C20H25N3O2
